US07700786B2
Triethylamine (0.19 g, 1.4 mmol) and phenyl isocyanate (0.17 g, 1.4 mmol) were added to a solution of 5-methyl-3-(2-trifluoromethylphenyloxy)pyrazole (0.30 g, 1.2 mmol) in ethyl acetate (5 ml) at 0° C., and the mixture was allowed to have room temperature gradually and stirred for 6 hours. After completion of the reaction, the reaction mixture was poured into 1N hydrochloric acid (10 ml) and extracted with ethyl acetate (10 ml×2). An organic layer was washed with water (10 ml×2), dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/15), to give an orange solid of N-phenyl-5-methyl-3-(2-trifluoromethylphenyloxy)pyrazole-1-carboxamide (0.39 g, yield: 87.5%). mp: 87-89° C., 1H-NMR (CDCl3, TMS, ppm): δ 2.65 (d, J=0.7 Hz, 3H), 5.78 (d, J=0.7 Hz, 1H), 7.14 (ddd, J=1.2, 2.3 and 7.3 Hz, 1H), 7.28-7.38 (m, 4H), 7.51-7.60 (m, 3H), 7.69-7.73 (m, 1H), 8.90 (br s, 1H).

reactant | Triethylamine | 1.4 mmol, 0.19 g | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanate | 1.4 mmol, 0.17 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 5-methyl-3-(2-trifluoromethylphenyloxy)pyrazole | 1.2 mmol, 0.30 g | CC1=CC(=NN1)OC1=C(C=CC=C1)C(F)(F)F | C11H9F3N2O
reactant | hydrochloric acid | 1N, 10 ml | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | N-phenyl-5-methyl-3-(2-trifluoromethylphenyloxy)pyrazole-1-carboxamide | 0.39 g, yield: 87.5% | C1(=CC=CC=C1)NC(=O)N1N=C(C=C1C)OC1=C(C=CC=C1)C(F)(F)F | C18H14F3N3O2
